US06350774B1
Preparation of (±)-6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)-ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[trans-2-(2-Oxo-oxazolidin-3-yl)cyclohexyloxy]phenyl Ketone.
Using a procedure similar to that described below in Example 19, the title compound was prepared in 49% yield from (±)-trans-2-(2-oxooxazolidin-3-yl)cylohexanol (Part A) and 6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophen-3-yl 4-fluorophenyl ketone (Part B).

reactant | (±)-trans-2-(2-oxooxazolidin-3-yl)cylohexanol | O=C1OCCN1[C@H]1[C@@H](CCCC1)O | C9H15NO3
reactant | 6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophen-3-yl 4-fluorophenyl ketone | FC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)OCC2=CC=CC=C2 | C34H30FNO3S
product | (±)-6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)-ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[trans-2-(2-Oxo-oxazolidin-3-yl)cyclohexyloxy]phenyl Ketone | 49% yield | O=C1OCCN1[C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)O | C36H38N2O6S
